US08809342B2
To a solution of 2-bromo-1,3-dimethyl-5-nitrobenzene (2.7 g, 11.7 mmol) in toluene (36 mL) was added tetrakis(triphenylphosphine)palladium(0) (1.36 g, 1.17 mmol), 4-(trifluoromethyl)phenylboronic acid (4.46 g, 23.5 mmol), and potassium fluoride hydrate (3.31 g, 43 mmol). The reaction was purged with nitrogen three times. Water (9 mL) was added and the reaction was refluxed overnight. The reaction was diluted with saturated ammonium chloride and the layers were separated. The organic layer was washed with water (3×40 mL) and brine, dried over sodium sulfate, filtered and concentrated. Purification by column chromatography gave 2,6-dimethyl-4-nitro-4′-(trifluoromethyl)biphenyl (1.5 g, 43%) as a yellow solid. 1H NMR (400 MHz, CDCl3, δ): 7.99 (s, 2H), 7.75 (d, 2H), 7.26 (s, 1H), 7.25 (s, 1H), 2.10 (s, 6H).

reactant | 2-bromo-1,3-dimethyl-5-nitrobenzene | 11.7 mmol, 2.7 g | BrC1=C(C=C(C=C1C)[N+](=O)[O-])C | C8H8BrNO2
reactant | 4-(trifluoromethyl)phenylboronic acid | 23.5 mmol, 4.46 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | potassium fluoride hydrate | 43 mmol, 3.31 g | O.[F-].[K+]
solvent | toluene | 36 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.17 mmol, 1.36 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,6-dimethyl-4-nitro-4′-(trifluoromethyl)biphenyl | 1.5 g, 43% | CC1=C(C(=CC(=C1)[N+](=O)[O-])C)C1=CC=C(C=C1)C(F)(F)F | C15H12F3NO2
